US04015007
24.9 g (0.15 mole) of (1RS,2RS,4SR)-spiro[norbornane-2,3'-piperidine] and 25 g of potassium carbonate are suspended in 100 ml of ethanol; an addition of 15.0 g (0.11 mole) of epichlorohydrin (1-chloro-2,3-epoxypropane) is subsequently made, whereupon the mixture heats up to 40°. It is stirred for 16 hours at room temperature and then concentrated in vacuo (ca. 12 Torr). The residue is suspended in 150 ml of water, and extracted three times with 50 ml of chloroform each time. The chloroform extracts are washed separately three times with 50 ml of water each time, dried over sodium sulphate and concentrated by evaporation. The residue is dissolved in 200 ml of 2N hydrochloric acid; this solution is extracted once with 50 ml of chloroform and concentrated in vacuo (ca. 12 Torr). The obtained reddish crystals are recrystallised from acetone/ether to obtain α-(chloromethyl)-(1RS,2RS,4SR)-spiro[norbornane-2,3'-piperidine]-1' -ethanol-hydrochloride, M.P. 199°-201°.

reactant | (1RS,2RS,4SR)-spiro[norbornane-2,3'-piperidine] | 0.15 mole, 24.9 g | N1CC2(CCC1)C1CCC(C2)C1 | C11H19N
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 0.11 mole, 15.0 g | C(Cl)C1CO1 | C3H5ClO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | α-(chloromethyl)-(1RS,2RS,4SR)-spiro[norbornane-2,3'-piperidine]-1' -ethanol-hydrochloride | Cl.ClCC(CN1CC2(CCC1)C1CCC(C2)C1)O | InChI=1S/C14H24ClNO.ClH/c15-8-13(17)9-16-5-1-4-14(10-16)7-11-2-3-12(14)6-11;/h11-13,17H,1-10H2;1H
